US05789412
36B: 3-(4-methylpiperazin-1-yl)naphthalen-2-ol
3-Aminonaphthalen-2-ol (5 g, 31.4 mmol) is brought to the reflux point of 1-butanol (100 ml) in the presence of 2-chloro-N-(chloroethyl)-N-methylethanamine hydrochloride (6.05 g, 31.4 mmol) and sodium carbonate (1.7 g, 16 mmol). After 48 h, the reaction mixture is concentrated and impregnated onto silica and then purified by flash chromatography with a mixture (93/7/1) of dichloromethane/methanol/aqueous ammonia.

reactant | 3-Aminonaphthalen-2-ol | 31.4 mmol, 5 g | NC=1C(=CC2=CC=CC=C2C1)O | C10H9NO
reactant | 2-chloro-N-(chloroethyl)-N-methylethanamine hydrochloride | 31.4 mmol, 6.05 g | Cl.ClCCN(C)CCCl
reactant | sodium carbonate | 16 mmol, 1.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 3-(4-methylpiperazin-1-yl)naphthalen-2-ol | CN1CCN(CC1)C=1C(=CC2=CC=CC=C2C1)O | C15H18N2O
